US05705499
h) 5,11-Dihydro-11-ethyl-5-methyl-8-[trans-2-(4-pyridyl)ethen-1-yl]-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one
A mixture containing 5,11-dihydro-11-ethyl-8-iodo-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]-diazepin-6-one (0.7 g, 1.9 mmol), 4-vinylpyridine (0.3 mL, 2.9 mmol), bis(triphenylphosphine)palladium(II) chloride (60 mg, 0.09 mmol), triethylamine (1.8 mL, 12.8 mmol), and 1 crystal of 2,6-di-tert-butyl-4-methylphenol in 4 mL of N,N-dimethylformamide was heated at 125° C. under argon for 3 hours. The reaction mixture was then cooled to room temperature, diluted with water, and extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride, dried (magnesium sulfate), and concentrated to give a yellow oil. Purification by flash chromatography, eluting with ethyl acetate/hexanes, and recrystallization (ethyl acetate/hexanes) provided the 0.5 g of the title compound as yellow crystals, m.p. 150° C.

reactant | 5,11-dihydro-11-ethyl-8-iodo-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]-diazepin-6-one | 1.9 mmol, 0.7 g | C(C)N1C2=C(N(C(C3=C1N=CC(=C3)I)=O)C)C=CC=N2 | C14H13IN4O
reactant | 4-vinylpyridine | 2.9 mmol, 0.3 mL | C(=C)C1=CC=NC=C1 | C7H7N
reactant | triethylamine | 12.8 mmol, 1.8 mL | C(C)N(CC)CC | C6H15N
reactant | 2,6-di-tert-butyl-4-methylphenol | C(C)(C)(C)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C15H24O
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.09 mmol, 60 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 5,11-Dihydro-11-ethyl-5-methyl-8-[trans-2-(4-pyridyl)ethen-1-yl]-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | 0.5 g | C(C)N1C2=C(N(C(C3=C1N=CC(=C3)\C=C\C3=CC=NC=C3)=O)C)C=CC=N2 | C21H19N5O
